US06175007B1
5-Chloro-4-(4-chloro-3-nitrophenyl)-1-difluoromethyl-2-methyl-1H-imidazole
8 g (28 mmol) of 5-chloro-4-(4-chlorophenyl)-1-difluoromethyl-2-methyl-1H-imidazole were cooled to (−40)° C., and 100 ml of concentrated nitric acid were added. After 2 hours at (−20)° C., the mixture was poured into ice-water, whereupon the solid product of value was filtered off, washed with water and dried. Yield: 7 g.

reactant | 5-chloro-4-(4-chlorophenyl)-1-difluoromethyl-2-methyl-1H-imidazole | 28 mmol, 8 g | ClC1=C(N=C(N1C(F)F)C)C1=CC=C(C=C1)Cl | C11H8Cl2F2N2
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
product | 5-Chloro-4-(4-chloro-3-nitrophenyl)-1-difluoromethyl-2-methyl-1H-imidazole | ClC1=C(N=C(N1C(F)F)C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C11H7Cl2F2N3O2
